US06797718B2
Trifluoroacetic acid (40 mL) was added to [2-(2-{4-[bis-(4-methoxybenzyl)amino]-6-chloro-7-methyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl}ethoxy)ethyl]carbamic acid tert-butyl ester (1 g, 1.5 mmol). The reaction was swirled until it became homogeneous and was allowed to stand at room temperature overnight. The reaction was concentrated under reduced pressure, and dichloromethane was added and removed under reduced pressure (5×40 mL) to provide a white solid. The solid was triturated in chloroform, isolated by filtration, and dried under reduced pressure with heating. The solid was dissolved in concentrated hydrochloric acid (5 mL) and stirred for three hours. Aqueous sodium hydroxide was then added. A white solid formed, which was isolated by filtration, washed with water and diethyl ether, and dried for five hours under high vacuum at 70° C. to provide 0.144 g of 1-[2-(2-aminoethoxy)ethyl]-6-chloro-7-methyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine as a white solid, mp 158.0-161.0° C.

reactant | [2-(2-{4-[bis-(4-methoxybenzyl)amino]-6-chloro-7-methyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl}ethoxy)ethyl]carbamic acid tert-butyl ester | 1.5 mmol, 1 g | C(C)(C)(C)OC(NCCOCCN1C(=NC=2C(=NC(=C(C21)C)Cl)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)CCC)=O | C35H46ClN5O5
solvent | Trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[2-(2-aminoethoxy)ethyl]-6-chloro-7-methyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 0.144 g | NCCOCCN1C(=NC=2C(=NC(=C(C21)C)Cl)N)CCC | C14H22ClN5O
